US07932262B2
Step 6. Preparation of 3-(7-Hydroxyquinazolin-2-ylamino)benzenesulfonamide
To a 0.02M solution of 3-(7-Methoxyquinazolin-2-ylamino)benzenesulfonamide in NMP was added sodium thiomethoxide (5.0 eq) at ambient temperature. The reaction was stirred at 80° C. for 3 hours. The solid was collected by vacuum filtration and was partitioned between ethyl acetate and water. Saturated ammonium hydrochloride was added to aqueous phase until the PH=6. Aqueous phase was extracted with ethyl acetate. The organic phase was washed with brine, dried over sodium sulfate and concentrated to give desired product in 85% yield. ES/MS m/z 317 (MH+).

reactant | 3-(7-Methoxyquinazolin-2-ylamino)benzenesulfonamide | COC1=CC=C2C=NC(=NC2=C1)NC=1C=C(C=CC1)S(=O)(=O)N | C15H14N4O3S
reactant | sodium thiomethoxide | 5.0 eq | C[S-].[Na+]
solvent | NMP | CN1CCCC1=O | C5H9NO
product | 3-(7-Hydroxyquinazolin-2-ylamino)benzenesulfonamide | 85% yield | OC1=CC=C2C=NC(=NC2=C1)NC=1C=C(C=CC1)S(=O)(=O)N | C14H12N4O3S
